US09403810B2
Step 4: (9H-Fluoren-9-yl)methyl (2-isopropyl-1,5-dimethyl-3-oxo-2,3-dihydro-1H-pyrazol-4-yl)carbamate
To a solution of (9H-fluoren-9-yl)methyl (2-isopropyl-5-methyl-3-oxo-2,3-dihydro-1H-pyrazol-4-yl)carbamate (2.109 g, 5.59 mmol) in DMF (30 mL) was added methyl iodide (2.80 mL, 44.7 mmol). The reaction mixture was stirred at 90° C. overnight. The resulting mixture was quenched with IPA and water and extracted with EtOAc. The combined organic extracts were washed with brine, dried over MgSO4, filtered and the solvent removed under reduced pressure. The crude material was adsorbed onto silica and purification by chromatography using a gradient of 0-10% MeOH in EtOAc afforded the title compound;

reactant | (9H-fluoren-9-yl)methyl (2-isopropyl-5-methyl-3-oxo-2,3-dihydro-1H-pyrazol-4-yl)carbamate | 5.59 mmol, 2.109 g | C(C)(C)N1NC(=C(C1=O)NC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)C | C22H23N3O3
reactant | methyl iodide | 44.7 mmol, 2.80 mL | CI | CH3I
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | (9H-Fluoren-9-yl)methyl (2-isopropyl-1,5-dimethyl-3-oxo-2,3-dihydro-1H-pyrazol-4-yl)carbamate | C(C)(C)N1N(C(=C(C1=O)NC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)C)C | C23H25N3O3
